US09233098B2
2. Preparation of 2-[1-[4-(4-cyanobenzamido)benzyl]-1H-indazol-3-yl]acetic acid
Ethyl 2-[1-[4-(4-cyanobenzamido)benzyl]-1H-indazol-3-yl]acetate (121 mg, 0.276 mmol) was dissolved in tetrahydrofuran (20 mL), and in an ice bath 10 mL aqueous solution dissolving lithium hydroxide monohydrate (58 mg, 1.38 mmol) was added. It was reacted at room temperature for 3 h, and the reaction was monitored to be complete by TLC. Water was added into the system, and adjusted to pH≈3-4 with diluted hydrochloric acid. A solid precipitated, which was filtered and dried, and the resulting solid was recrystallized from ethyl acetate to obtain a white solid 69 mg, at a yield of 60.9%.

reactant | Ethyl 2-[1-[4-(4-cyanobenzamido)benzyl]-1H-indazol-3-yl]acetate | 0.276 mmol, 121 mg | C(#N)C1=CC=C(C(=O)NC2=CC=C(CN3N=C(C4=CC=CC=C34)CC(=O)OCC)C=C2)C=C1 | C26H22N4O3
reactant | lithium hydroxide monohydrate | 1.38 mmol, 58 mg | O.[OH-].[Li+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-[1-[4-(4-cyanobenzamido)benzyl]-1H-indazol-3-yl]acetic acid | 69 mg, yield of 60.9% | C(#N)C1=CC=C(C(=O)NC2=CC=C(CN3N=C(C4=CC=CC=C34)CC(=O)O)C=C2)C=C1 | C24H18N4O3
